US06740647B1
d) 2-(N-Boc-Aminomethyl)-5-methylthiazole-4-carboxylic Acid
Methyl 2-(N-Boc-aminomethyl)-5-methylthiazole-4-carboxylate (22.0 g, 77 mmol) was dissolved in ethanol (100 ml), and a solution of LiOH (2.2 g, 92 mmol) in water (50 ml) was added. After the mixture had been stirred for 30 minutes at room temperature, the ethanol was removed on a rotary evaporator and the solution which remained was diluted with water (70 ml). The aqueous phase was washed with ethyl acetate (3×) and brought to pH 2 with 20% strength NaHSO4 solution, during which process a pale brown oil separated out. The aqueous phase was extracted with dichloromethane and the combined organic extracts were dried (MgSO4) and concentrated in vacuo. The pale brown residue was extracted by stirring in diisopropyl ether. The colorless precipitate which remained was filtered off with suction and washed with diisopropyl ether. Yield: 6.9 g (25.4 mmol, 33%, colorless solid).

reactant | Methyl 2-(N-Boc-aminomethyl)-5-methylthiazole-4-carboxylate | 77 mmol, 22.0 g | C(=O)(OC(C)(C)C)NCC=1SC(=C(N1)C(=O)OC)C | C12H18N2O4S
reactant | LiOH | 92 mmol, 2.2 g | [Li+].[OH-]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 2-(N-Boc-Aminomethyl)-5-methylthiazole-4-carboxylic Acid | C(=O)(OC(C)(C)C)NCC=1SC(=C(N1)C(=O)O)C | C11H16N2O4S
